US06399629B1
(C) (2S,4R)-4-Glycylamino-2-(4-Biphenyloxy)methylpyrrolidine
(2S,4R)-4-(N-tert-Butoxycarbonylglycylamino)-2-(4-biphenyloxy)methyl-N-tert-butoxycarbonylpyrrolidine (B, 431 mg) was dissolved in 4 N hydrogen chloride in 1,4-dioxane (4 mL). After stirring for 2 hr, the reaction mixture was evaporated in vacuo to give a white solid. The solid was washed with ether to afford the titled compound (254 mg): 1H NMR (400 MHz, D2O) δ 2.33 (m, 1H), 2.44 (m, 1H), 3.45 (dd, J=12.7, 4.4 Hz, 1H), 3.79 (dd, J=12.7, 6.8 Hz, 1H), 3.84 (s, 2H), 4.27 (dd, J=10.7, 6.8 Hz, 1H), 4.36 (m, 1H), 4.47 (d, J=10.7 Hz, 1H), 4.67 (m, 1H), 7.16 (d, J=8.3 Hz, 2H), 7.43 (d, J=7.3 Hz, 1H), 7.53 (t, J=7.3 Hz, 2H), 7.68-7.72 (m, 4H).

reactant | (2S,4R)-4-(N-tert-Butoxycarbonylglycylamino)-2-(4-biphenyloxy)methyl-N-tert-butoxycarbonylpyrrolidine | 431 mg | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COC1=CC=C(C=C1)C1=CC=CC=C1 | C29H39N3O6
solvent | hydrogen chloride | 4 N | Cl | ClH
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (2S,4R)-4-Glycylamino-2-(4-Biphenyloxy)methylpyrrolidine | 254 mg | NCC(=O)N[C@@H]1C[C@H](NC1)COC1=CC=C(C=C1)C1=CC=CC=C1 | C19H23N3O2
